US07745438B2
3-Fluoro-5-propoxy-benzaldehyde
Add n-butyl lithium (13 mL, 1.6M, 20.76 mmol) to 1-bromo-3-fluoro-5-propoxybenzene (4.40 g, 18.88 mmol) in tetrahydrofuran (100 mL) cooled in a dry ice/acetone bath over 45 minutes, maintaining the internal temperature <−70°. Stir 30 minutes and add N,N-dimethylformamide (2.76 g, 37.75 mmol). Stir 30 minutes and remove cold bath. After 1 hour, quench with saturated aqueous ammonium chloride. Wash organic layer with water and saturated aqueous sodium chloride. Dry (sodium sulfate), filter and concentrate to an oil. Purify on 120 g silica gel eluting with 0 to 10% ethyl acetate in hexanes to give 2.26 g (65.7%) of the desired compound as an oil.

reactant | n-butyl lithium | 20.76 mmol, 1.6M, 13 mL | C(CCC)[Li]
reactant | 1-bromo-3-fluoro-5-propoxybenzene | 18.88 mmol, 4.40 g | BrC1=CC(=CC(=C1)OCCC)F | C9H10BrFO
reactant | N,N-dimethylformamide | 37.75 mmol, 2.76 g | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-Fluoro-5-propoxy-benzaldehyde | 2.26 g, 65.7% | FC=1C=C(C=O)C=C(C1)OCCC | C10H11FO2
